US03940421
Following a procedure similar to that described in Example 1B hereinabove, methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate is reacted with 5-(3-cyclopropyl-2-propyl)resorcinol to give 7-(3-cyclopropyl-2-propyl)-1,2-dihydro-9-hydroxy-4-oxo-4H-thieno[2,3-c][1]benzopyran.

reactant | methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate | O=C1C(SCC1)C(=O)OC | C6H8O3S
reactant | 5-(3-cyclopropyl-2-propyl)resorcinol | C1(CC1)CC(C)C=1C=C(C=C(O)C1)O | C12H16O2
product | 7-(3-cyclopropyl-2-propyl)-1,2-dihydro-9-hydroxy-4-oxo-4H-thieno[2,3-c][1]benzopyran | C1(CC1)CC(C)C1=CC2=C(C3=C(C(O2)=O)SCC3)C(=C1)O | C17H18O3S
